US07511144B2
To a solution of 5.0 g (36.7 mmol) of 3,5-dimethylanisole in carbon tetrachloride (35 mL) was added 5.2 g (29.4 mmol) of N-bromosuccinimide and 0.2 g (0.74 mmol) of benzoyl peroxide at room temperature, followed by heating under reflux for 2 hours. The reaction mixture was left standing to cool and then filtered. The filtrate was concentrated under a reduced pressure. The obtained residue was dissolved in ethanol (7.5 mL), and treated with 4.5 g (26.1 mmol) of 4-methylsulfonylphenol and 7.5 mL (30.0 mmol) of a 4 N aqueous sodium hydride, and heated under reflux for 1 hour. After standing to cool, water and hexane was added to the reaction mixture, and the precipitates were collected by filtration and washed with ether. The residue was purified by column chromatography (silica gel 80 g, developing solvent: chloroform-ethyl acetate=4: 1) to obtain 4.5 g (yield 40.4%) of 1-(4-methanesulfonylphenoxymethy)-3-methoxy-5-methylbenzene (VI-7) as a colorless crystal. Its physical properties are shown below.

reactant | 3,5-dimethylanisole | 36.7 mmol, 5.0 g | CC=1C=C(C=C(C1)C)OC | C9H12O
reactant | N-bromosuccinimide | 29.4 mmol, 5.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-methylsulfonylphenol | 26.1 mmol, 4.5 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | sodium hydride | 4 N | [H-].[Na+]
solvent | carbon tetrachloride | 35 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.74 mmol, 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 1-(4-methanesulfonylphenoxymethy)-3-methoxy-5-methylbenzene | 4.5 g, yield 40.4% | CS(=O)(=O)C1=CC=C(OCC2=CC(=CC(=C2)C)OC)C=C1 | C16H18O4S
